US04918223
N-nicotinoyl-D-penicillamine-hydrochloride
20.8 g (0.2 mole) nicotinic acid nitrile, 29.8 g (0.2 mole) D-penicillamine and 13.8 g (0.1 mole) potassium carbonate were heated in 350 ml methanol and 150 ml water for 6 hours at the boiling point. The mixture was acidified with concentrated hydrochloric acid to pH 4 and heated 45 minutes at the boiling point. After the mixture cooled off, 36.5 g (63% of theory) of the product precipitated as hydrochloride with a melting point of 164° C. [α]25D =+4.0° (c=2 in 1N NaOH)

reactant | nicotinic acid nitrile | 0.2 mole, 20.8 g | C1=CC(=CN=C1)C#N | C6H4N2
reactant | D-penicillamine | 0.2 mole, 29.8 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | potassium carbonate | 0.1 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 350 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | N-nicotinoyl-D-penicillamine-hydrochloride | Cl.C(C1=CN=CC=C1)(=O)N[C@H](C(C)(C)S)C(=O)O | InChI=1S/C11H14N2O3S.ClH/c1-11(2,17)8(10(15)16)13-9(14)7-4-3-5-12-6-7;/h3-6,8,17H,1-2H3,(H,13,14)(H,15,16);1H/t8-;/m0./s1
